US06492383B1
B. N-(3-Methoxy-phenyl )-N′-(6-phenyl-thieno[3,2-d]pyrimidin-4-yl)-benzene-1,4-diamine
Utilizing a procedure analogous to that described in Example 61, the title compound was prepared in 17% yield from added N-(3-methoxy-phenyl)-benzene-1,4-diamine (100 mg, 0.405 mmol) and 4-chloro-6-phenyl-thieno[3,2-d]pyrimidine (100 mg, 0.405 mmol). RP18-HPLC RT: 6.833 minutes; API MS: 425.53 (M+1); MP: 189-191° C.

reactant | N-(3-methoxy-phenyl)-benzene-1,4-diamine | 0.405 mmol, 100 mg | COC=1C=C(C=CC1)NC1=CC=C(C=C1)N | C13H14N2O
reactant | 4-chloro-6-phenyl-thieno[3,2-d]pyrimidine | 0.405 mmol, 100 mg | ClC=1C2=C(N=CN1)C=C(S2)C2=CC=CC=C2 | C12H7ClN2S
product | N-(3-Methoxy-phenyl )-N′-(6-phenyl-thieno[3,2-d]pyrimidin-4-yl)-benzene-1,4-diamine | 17% yield | COC=1C=C(C=CC1)NC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=C(S2)C2=CC=CC=C2 | C25H20N4OS
